US08222245B2
1,1-Dimethylethyl 6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-dimethylethyl 6-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 15) (170 mg, 0.557 mmol) was dissolved in THF (30 ml) and stirred with sodium hydride (24.49 mg, 0.612 mmol) under argon at room temperature for 30 minutes. Then methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate (may be prepared as described in WO2005058848) (191 mg, 0.835 mmol) was added and the reaction heated at reflux temperature for 1.5 hours. The cooled reaction was evaporated and partitioned between DCM (100 ml) and water (100 ml). The water layer was washed with DCM (50 ml) and the combined DCM layers dried (hydrophobic frit) and evaporated. The title compound was isolated by silica chromatography (eluting with DCM). 1,1-dimethylethyl 6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (260 mg, 0.537 mmol, 96% yield) was isolated as an off-white foam. δH (400 MHz, CDCl3) 8.22 (1H, s), 8.05 (1H d), 7.68 (1H, d), 7.30-7.24 (2H, m), 7.06 (1H, d), 4.72 (1H, sept), 3.65-3.55 (4H, m), 3.35-3.25 (2H, m), 2.95-3.05 (2H, m); 1.45 (6H, d), 1.43 (9H, s); MS (ES) C26H3035ClN3O4 requires 483; found 484 [M+H]+.

reactant | 1,1-dimethylethyl 6-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.557 mmol, 170 mg | ONC(C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C)=N | C16H23N3O3
reactant | sodium hydride | 0.612 mmol, 24.49 mg | [H-].[Na+]
reactant | methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 0.835 mmol, 191 mg | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl 6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C26H30ClN3O4
